US07678787B2
Step A. 4-Pyrimidin-2-ylbenzoic acid
To a suspension of 4-carboxybenzeneboronic acid (0.660 g, 3.98 mmol) and 2-bromopyrimidine (0.630 g, 3.98 mmol) in dry acetonitrile (20 mL) was added 0.4 M aqueous sodium carbonate (20 mL) and the mixture was purged with nitrogen for 10 minutes. Tetrakis(triphenylphosphine)palladium(0) (240 mg) was then added and the reaction mixture heated to 90° C. for 17 hours. The hot reaction mixture was filtered through celite and concentrated in vacuo to remove the acetonitrile. The resulting aqueous suspension was washed with dichloromethane (2×30 mL) and then acidified to pH 1 by the addition of concentrated hydrochloric acid. The resulting white suspension was diluted with water (20 mL), filtered and the solid product dried in vacuo at 50° C. overnight to give the title compound (0.709 g, 89%) as a white solid, m.p. 237° C.

reactant | 4-carboxybenzeneboronic acid | 3.98 mmol, 0.660 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 2-bromopyrimidine | 3.98 mmol, 0.630 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | sodium carbonate | 0.4 M, 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-Pyrimidin-2-ylbenzoic acid | 0.709 g, 89% | N1=C(N=CC=C1)C1=CC=C(C(=O)O)C=C1 | C11H8N2O2
